US05977105
d) (2R)-1-(3'-Cyanobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol
Potassium carbonate (0.21 g) was added to a solution of (2R)-4-(3-pyridyl)-2-benzoyloxy-1-(3'-cyanobiphenyl-4-yloxy)butane (0.34 g) in methanol (15 ml) and water (5 ml) and the reaction stirred for 2 hours. The mixture was then poured into saturated aqueous sodium hydrogencarbonate solution and the mixture extracted with ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue obtained was purified by column chromatography over silica eluting with ethyl acetate to give the title compound as an oil (0.21 g).

reactant | Potassium carbonate | 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2R)-4-(3-pyridyl)-2-benzoyloxy-1-(3'-cyanobiphenyl-4-yloxy)butane | 0.34 g | N1=CC(=CC=C1)CC[C@H](COC1=CC=C(C=C1)C1=CC(=CC=C1)C#N)OC(C1=CC=CC=C1)=O | C29H24N2O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | (2R)-1-(3'-Cyanobiphenyl-4-yloxy)-4-(3-pyridyl)-2-butanol | 0.21 g | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)OC[C@@H](CCC=1C=NC=CC1)O | C22H20N2O2
